US04898874
3-Phenyl-2,1-benzisoxazole-6-acetic acid
A mixture of 2.9 g (0.012 mole) of crude 3-phenyl-2,1-benzisoxazole-6-acetonitrile, 10 ml of 20% sodium hydroxide, and 75 ml of ethanol was heated at reflux under a nitrogen atmosphere overnight. The dark solution was cooled and poured into 600 ml of water. The mixture was filtered through Celite, treated with charcoal and again filtered. The filtrate was made acidic with concentrated hydrochloric acid and a solid precipitated. The solid was collected by filtration, washed with water, dried, and recrystallized from 2-propanol (charcoal) to give 2.1 g (66%) of brown powder, m.p. 162°-177° C., with decomposition.

reactant | 3-phenyl-2,1-benzisoxazole-6-acetonitrile | 0.012 mole, 2.9 g | C1(=CC=CC=C1)C=1ON=C2C1C=CC(=C2)CC#N | C15H10N2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
reactant | water | 600 ml | O | H2O
product | 3-Phenyl-2,1-benzisoxazole-6-acetic acid | 2.1 g, 66% | C1(=CC=CC=C1)C=1ON=C2C1C=CC(=C2)CC(=O)O | C15H11NO3
